US04590195
4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-2-[2-(guanidino)ethoxymethyl]-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
2-(2-Aminoethoxymethyl)-4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (5.0 g) and S-methylisothiourea sulphate (3.45 g) was suspended in n-propanol (120 ml) and triethylamine (30 ml) and refluxed for 17 hours. After evaporation to dryness, the residual oil was partitioned between aqueous sodium bicarbonate and methylene chloride. The organic layer was dried (MgSO4), filtered and evaporated. The resultant beige solid was triturated with hexane to give the title compound (4.1 g), N.M.R. (CDCl3, 60 MHz): 3H 1.15(t), 3H 3.55(s), 4H 3.7(m), 2H 4.0(q), 2H 4.7(s), 1H 5.45(s), 8H 7.25(m).

reactant | 2-(2-Aminoethoxymethyl)-4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 5.0 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C20H24Cl2N2O5
reactant | S-methylisothiourea sulphate | 3.45 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
solvent | n-propanol | 120 ml | C(CC)O | C3H8O
product | 4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-2-[2-(guanidino)ethoxymethyl]-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 4.1 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCNC(=N)N)C(=O)OCC | C21H26Cl2N4O5
